US07465728B2
1-(3-Hydroxypropylthio)-4-nitrobenzene
3-Chloropropanol (6.0 g, 63.5 mmol) was added dropwise to a solution of 4-nitrothiophenol (8.2 g, 52.9 mmol) and sodium hydroxide (3.2 g) in water (120 ml) stirred and heated at 80° C. under nitrogen and the mixture heated at 80° C. for 205 minutes. The mixture was allowed to cool and then extracted with EtOAc (2×100 ml). The extracts were combined, washed with water (50 ml) and brine (50 ml), dried and evaporated to give the title compound (11.1 g, 98%). NMR (CDCl3) 1.99 (m, 2H), 3.18 (t, 2H), 3.81 (m, 2H), 7.35 (d, 2H), 8.13 (d, 2H).

reactant | 3-Chloropropanol | 63.5 mmol, 6.0 g | ClCCCO | C3H7ClO
reactant | 4-nitrothiophenol | 52.9 mmol, 8.2 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 1-(3-Hydroxypropylthio)-4-nitrobenzene | 11.1 g, 98% | OCCCSC1=CC=C(C=C1)[N+](=O)[O-] | C9H11NO3S
